US04383945
To a solution of (6R,7R)-7-amino-2,2-dimethyl-1-aza-3-oxabicyclo[4.2.0]octan-8-one (300 mg) were added pyridine (0.25 ml) and freshly prepared acetic formic anhydride (0.38 ml) at 0° C. After stirring for 45 minutes at 0° C., the reaction mixture was evaporated in vacuo. The residue was dissolved in xylene and the solution was evaporated in vacuo. The residue was chromatographed on silica gel (6 g) eluting with a mixture of methylene chloride and methanol (25:1-10:1) to give (6R,7R)-2,2-dimethyl-7-formamido-1-aza-3-oxabicyclo[4.2.0]octan-8-one (378 mg) as an oil.

reactant | (6R,7R)-7-amino-2,2-dimethyl-1-aza-3-oxabicyclo[4.2.0]octan-8-one | 300 mg | N[C@@H]1[C@H]2CCOC(N2C1=O)(C)C | C8H14N2O2
reactant | acetic formic anhydride | 0.38 ml | C(=O)OC(C)=O | C3H4O3
solvent | pyridine | 0.25 ml | N1=CC=CC=C1 | C5H5N
product | (6R,7R)-2,2-dimethyl-7-formamido-1-aza-3-oxabicyclo[4.2.0]octan-8-one | 378 mg | CC1(N2C([C@@H]([C@H]2CCO1)NC=O)=O)C | C9H14N2O3
